plaintext
* SPICE Netlist

* NMOS transistor
M1 3 1 3 3 NMOS_MODEL

* PMOS transistors
M2 3 5 3 3 PMOS_MODEL
M3 4 3 3 3 PMOS_MODEL

* Current source
I1 4 2 DC 1mA

* Voltage sources (Vb, Vin, and VDD are implied from context)
VDD 5 0 DC 5V
Vb 1 0 DC 1V
Vin 2 0 AC 1V

* Models (placeholder for actual model parameters)
.model NMOS_MODEL NMOS (level=1)
.model PMOS_MODEL PMOS (level=1)

.end